US09145413B2
a. (S)-1,4,4-Trimethyl-pyrrolidine-2-carboxylic acid (Intermediate 87a)
A suspension of 4,4-dimethyl-L-proline hydrochloride (900 mg, 5.00 mmol), formaldehyde (37% aqueous, 450 μL), DIPEA (645 mg, 5.00 mmol) and palladium on carbon (10%, 400 mg) in IMS (50 mL) was stirred under an atmosphere of hydrogen (1 atm) for 4 h. The suspension was filtered and concentrated in vacuo to give the title compound as a viscous pink oil (780 mg, 99%). 1H NMR (400 MHz, CDCl3): 1.47 (3H, s), 1.49 (3H, s), 2.04-2.16 (1H, m), 2.23-2.34 (1H, m), 2.93 (3H, s), 3.10 (2H, m), 3.78-3.89 (1H, m), 4.86 (1H, br s).

reactant | 4,4-dimethyl-L-proline hydrochloride | 5.00 mmol, 900 mg | Cl.CC1(C[C@H](NC1)C(=O)O)C
reactant | DIPEA | 5.00 mmol, 645 mg | CCN(C(C)C)C(C)C | C8H19N
catalyst | palladium on carbon | 400 mg | [Pd] | Pd
solvent | formaldehyde | 450 μL | C=O | CH2O
product | (S)-1,4,4-Trimethyl-pyrrolidine-2-carboxylic acid | 780 mg, 99% | CN1[C@@H](CC(C1)(C)C)C(=O)O | C8H15NO2
